US07355052B2
Stage 5: methyl 4-[(6-{[bis(3-methylbutyl)amino]carbonyl}-1-{3-[(tert-butoxycarbonyl) amino]propyl}-1H-benzimidazol-2-yl)amino]benzoate
4-methoxycarbonylphenyl isothiocyanate (327 mg, 1.5 eq) and N-methylcyclohexylcarbodiimide-N-methyl-polystyrene resin (acquired from Novabiochem; charge 1.9 mmol/g; 1.75 g, 3 eq) are added successively to a solution of tert-butyl-3-[(2-amino-5-{[bis(3-methylbutyl)amino]carbonyl}phenyl)amino]propylcarbamate (500 mg, 1 eq) in tetrahydrofuran (30 ml). The mixture is heated under reflux for 17 hours then cooled down to ambient temperature and aminomethylpolystyrene resin (acquired from Novabiochem, 2 eq) is added. After stirring for 4 hours at ambient temperature, the mixture is filtered on frit and the filtrate is concentrated under reduced pressure at 40° C. Purification of the residue by flash chromatography on silica gel (eluent: heptane/ethyl acetate 1:1) produces the expected compound in the form of a white solid (409 mg; 60% yield).

reactant | 4-methoxycarbonylphenyl isothiocyanate | 327 mg, 1.5 eq | COC(=O)C1=CC=C(C=C1)N=C=S | C9H7NO2S
reactant | tert-butyl-3-[(2-amino-5-{[bis(3-methylbutyl)amino]carbonyl}phenyl)amino]propylcarbamate | 500 mg, 1 eq | C(C)(C)(C)OC(NCCCNC1=C(C=CC(=C1)C(=O)N(CCC(C)C)CCC(C)C)N)=O | C25H44N4O3
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | methyl 4-[(6-{[bis(3-methylbutyl)amino]carbonyl}-1-{3-[(tert-butoxycarbonyl) amino]propyl}-1H-benzimidazol-2-yl)amino]benzoate | 60% yield | CC(CCN(C(=O)C=1C=CC2=C(N(C(=N2)NC2=CC=C(C(=O)OC)C=C2)CCCNC(=O)OC(C)(C)C)C1)CCC(C)C)C | C34H49N5O5
